US06589970B2
Boron trichloride (5.5 mL of a 1 M solution in methylene chloride; 5.5 mmol) was added under argon to a solution of N-(5-bromo-6-methoxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide (860 mg, 1.8 mmol), prepared by the general acylation procedure described above, and tetrabutylammonium iodide (2.04 g, 5.5 mmol) in 10 mL of methylene chloride at dry ice-acetone temperature. After the addition the reaction was allowed to warm to room temperature. The reaction was considered finished after HPLC/TLC analysis indicated the formation of a single product and the disappearance of the starting amide. The reaction was cooled to ice bath temperature followed by the addition of water. The organic layer was separated and the aqueous layer extracted three times with methylene chloride. The combined extracts were dried (Na2SO4) and the solvent removed under reduced pressure. The residue was purified by column chromatography (20-30% ethyl acetate in hexanes) to give N-(5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide (799 mg, 97%), LCMS (Calc'd: 451.13; Found: 451.65).

reactant | Boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | N-(5-bromo-6-methoxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide | 1.8 mmol, 860 mg | BrC1=C2C=CC(=CC2=CC=C1OC)CN(C(C1=CC=C(C=C1)C1CCCCC1)=O)C | C26H28BrNO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium iodide | 5.5 mmol, 2.04 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide | 799 mg, 97% | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(C1=CC=C(C=C1)C1CCCCC1)=O)C | C25H26BrNO2
